US08138189B2
Step 4: 3-(2-Chloro-4-methoxy-phenyl)-2-(2-chloro-pyridin-4-yl)-1,1,1-trifluoro-butan-2-ol
To a solution of 2-(2-chloro-4-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-propan-1-on (14.75 g, 0.0475 mol) in tetrahydrofuran (900 ml) was added a solution of (trifluoromethyl)-trimethylsilane (14.89 g, 0.104 mol) in tetrahydrofuran (100 ml) at 0° C. (duration: 5 min.). Tetramethylammonium fluoride trihydrate 1M in THF (4.76 ml, 4.76 mmol) was added and the mixture was stirred at r.t. for 3 h. A second portion of Tetramethylammonium fluoride trihydrate 1M in THF (4.76 ml, 4.47 mmol) was added and the mixture was stirred at r.t. for 1 h. The mixture was poured in ice water and extracted twice with AcOEt. The organic phases were washed with saturated aqueous NaHCO3 solution and brine, dried over MgSO4, filtered and concentrated to give an oil, which solidified over night. The residue was treated with heptane, filtered off and dried to give the title compound (13.85 g) as a light yellow crystalline product. MS (m/e, ISP neg. ion)=378.4 [M−H+].

reactant | 2-(2-chloro-4-methoxy-phenyl)-1-(2-chloro-pyridin-4-yl)-propan-1-on | 0.0475 mol, 14.75 g | ClC1=C(C=CC(=C1)OC)C(C(=O)C1=CC(=NC=C1)Cl)C | C15H13Cl2NO2
reactant | (trifluoromethyl)-trimethylsilane | 0.104 mol, 14.89 g | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | Tetramethylammonium fluoride trihydrate | 1M | O.O.O.[F-].C[N+](C)(C)C
reactant | Tetramethylammonium fluoride trihydrate | 1M | O.O.O.[F-].C[N+](C)(C)C
reactant | heptane | CCCCCCC | C7H16
solvent | tetrahydrofuran | 900 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | THF | 4.47 mmol, 4.76 ml | C1CCOC1 | C4H8O
solvent | THF | 4.76 mmol, 4.76 ml | C1CCOC1 | C4H8O
product | 3-(2-Chloro-4-methoxy-phenyl)-2-(2-chloro-pyridin-4-yl)-1,1,1-trifluoro-butan-2-ol | 13.85 g | ClC1=C(C=CC(=C1)OC)C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C | C16H14Cl2F3NO2
